US08628682B2
A 100 mL flask equipped with a stir-bar and a nitrogen bubbler was charged with (trifluoromethoxy)-benzene (5.015 g) at room temperature. Oleum (15% SO3, 9.30 g) was added to the above flask at 10° C. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 15 h. A sodium hydroxide solution (7.75 g, in 23 mL water) was slowly added to the reaction mixture while the reaction mixture was cooled with an ice-water bath. The resulting solid was collected by filtration, dried under vacuum, and then extracted with refluxing ethanol. The ethanol solution was dried to give sodium 4-(trifluoromethoxy)benzenesulfonate (3FMBSNa) 2.0 g (yield 24%): 1H NMR (D2O) 7.45 (d, J=9 Hz, 2H), 7.89 (m, 2H) ppm; 19F NMR (D2O)-58.1 (s) ppm.

reactant | (trifluoromethoxy)-benzene | 5.015 g | FC(OC1=CC=CC=C1)(F)F | C7H5F3O
reactant | Oleum | 9.30 g | OS(=O)(=O)O.O=S(=O)=O
reactant | sodium hydroxide | 23 mL, 7.75 g | [OH-].[Na+]
product | sodium 4-(trifluoromethoxy)benzenesulfonate | yield 24% | FC(OC1=CC=C(C=C1)S(=O)(=O)[O-])(F)F.[Na+] | InChI=1S/C7H5F3O4S.Na/c8-7(9,10)14-5-1-3-6(4-2-5)15(11,12)13;/h1-4H,(H,11,12,13);/q;+1/p-1
